US07807706B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.115 g, 0.5 mmol), 4-(4-trifluoromethyl-phenoxy)-benzylamine (0.133 g, 0.5 mmol), and K2CO3 (0.235 g, 1.7 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-[4-(4-trifluoromethyl-phenoxy)-benzyl]-2,3-dihydro-isoindol-1-one (0.116 g, 60%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.32 (s, 2H), 4.81 (s, 2H) 7.01-7.56 (m, 1H), 7.91 (d, 1H). GC-MS: m/z 383 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 0.5 mmol, 0.115 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 4-(4-trifluoromethyl-phenoxy)-benzylamine | 0.5 mmol, 0.133 g | FC(C1=CC=C(OC2=CC=C(CN)C=C2)C=C1)(F)F | C14H12F3NO
reactant | K2CO3 | 1.7 mmol, 0.235 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-[4-(4-trifluoromethyl-phenoxy)-benzyl]-2,3-dihydro-isoindol-1-one | 0.116 g, 60% | FC(C1=CC=C(OC2=CC=C(CN3C(C4=CC=CC=C4C3)=O)C=C2)C=C1)(F)F | C22H16F3NO2
